US09284308B2
3-(Benzo[b]thiophen-2-ylmethyl)-6-bromo-4-chloro-2-methoxyquinoline
A heterogeneous mixture of 3-(benzo[b]thiophen-2-ylmethyl)-6-bromo-2,4-dichloroquinoline (7.5 g, 17.73 mmol, Intermediate 51: step a), sodium methoxide (4.79 g, 88.62 mmol), and toluene (25 mL) was heated at 110° C. in a sealed tube for 6 hours. The resulting black tar was diluted with DCM, then filtered through Celite®, rinsing with dichloromethane. The filtrate was concentrated and the crude product purified by chromatography (heptanes/DCM, gradient) to provide the title compound as a tan solid.

reactant | 3-(benzo[b]thiophen-2-ylmethyl)-6-bromo-2,4-dichloroquinoline | S1C2=C(C=C1CC=1C(=NC3=CC=C(C=C3C1Cl)Br)Cl)C=CC=C2 | C18H10BrCl2NS
reactant | sodium methoxide | 88.62 mmol, 4.79 g | C[O-].[Na+]
reactant | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-(Benzo[b]thiophen-2-ylmethyl)-6-bromo-4-chloro-2-methoxyquinoline | S1C2=C(C=C1CC=1C(=NC3=CC=C(C=C3C1Cl)Br)OC)C=CC=C2 | C19H13BrClNOS
